US07220869B2
Preparation of Caprolactam Tetrafluoroborate
To a 100 ml flask containing 11.32 g of ε-caprolactam (0.1 mol), 30 ml water was added and stirred for dissolution. Then 21.95 g 40% aqueous solution of tetrafluoroboric acid (0.1 mol) was added dropwise into the flask over 20 min at room temperature. Then the reaction was stirred for another 1 hour. Desired product was formed after water was removed under reduced pressure and then dried at 110° C. under 1–5 mmHg for 1 hour. The yellowish, moisture- and water-stable liquid of N-protonated caprolactam tetrafluoroborate was obtained with a yield of 98.0%, which has a glass transition temperature of −78.2° C., a density of 1.34 g/ml, a viscosity of 503 cP, an electrochemical window of 2.0V, an ionic conductivity of 5.6×10−4 S/cm, and a Hammett acidic scale H0 of 2.56 using 2,4-dinitroaniline as indicator. No melting point was observed.

reactant | ε-caprolactam | 0.1 mol, 11.32 g | C1(CCCCCN1)=O | C6H11NO
reactant | tetrafluoroboric acid | 0.1 mol | F[B-](F)(F)F.[H+]
solvent | water | O | H2O
solvent | water | 30 ml | O | H2O
product | Caprolactam Tetrafluoroborate | F[B-](F)(F)F.C1(CCCCCN1)=O | InChI=1S/C6H11NO.BF4/c8-6-4-2-1-3-5-7-6;2-1(3,4)5/h1-5H2,(H,7,8);/q;-1
